US04046900
A solution of 11.9 g of 1-phenoxycarbonyl-4-(3-toluyl)piperidine and 75 ml of an aqueous 50% potassium hydroxide solution in 300 ml of ethanol is heated at reflux for 24 hours and then stirred at ambient temperature for an additional 36 hours. 100 ml of water are added, the ethanol is partially removed, the resulting mixture is extracted with ether and the combined ether extracts are extracted with 1N HCl. The aqueous solution is basified with an aqueous sodium hydroxide solution, extracted with ether, the combined ether extracts are dried, and the ether is removed, leaving a dark oil. The oil is dissolved in ether and ethereal hydrogen chloride is added to produce the sale which is collected by filtration, dried and recrystallized thrice from an ethanol-water mixture to give 4-(3-toluyl)piperidine hydrochloride, mp 196°-197° C.,

reactant | 1-phenoxycarbonyl-4-(3-toluyl)piperidine | 11.9 g | O(C1=CC=CC=C1)C(=O)N1CCC(CC1)C=1C=C(C=CC1)C | C19H21NO2
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | 100 ml | O | H2O
reactant | hydrogen chloride | Cl | ClH
solvent | ethanol | 300 ml | C(C)O | C2H6O
solvent | ether | CCOCC | C4H10O
product | 4-(3-toluyl)piperidine hydrochloride | Cl.C1(=CC(=CC=C1)C1CCNCC1)C | InChI=1S/C12H17N.ClH/c1-10-3-2-4-12(9-10)11-5-7-13-8-6-11;/h2-4,9,11,13H,5-8H2,1H3;1H
